US04882350
1-benzyl-2-oxo-5-n-pentyloxy pyrrolidine.
To a mixture of 4 g of 5-(n-pentyloxy)-pyrrolidin-2-one, 0.4 g of n-tetrabutylammonium bromide and 1.96 g of potassium hydroxide hydrated to 85% in 60 cm3 of tetrahydrofuran, there is added, without exceeding 30° C. a solution of 3.99 g of benzyl bromide in 20 cm3 of tetrahydrofuran. After agitating for 1 hour at ambient temperature, filtering, evaporating to dryness and chromatographing the residue on silica (eluent: ethyl acetate--n-hexane, 1--1), 4.5 g of the expected product is obtained.

reactant | 5-(n-pentyloxy)-pyrrolidin-2-one | 4 g | C(CCCC)OC1CCC(N1)=O | C9H17NO2
reactant | potassium hydroxide | 1.96 g | [OH-].[K+]
reactant | benzyl bromide | 3.99 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 60 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | 1-benzyl-2-oxo-5-n-pentyloxy pyrrolidine | 4.5 g | C(C1=CC=CC=C1)N1C(CCC1OCCCCC)=O | C16H23NO2
